US08278328B2
A solution of 2-fluoro-4-methyl-6-nitrophenol D41 (400 mg, 2.337 mmol) (D41) in ethanol (50 mL) was hydrogenated using a Pd/C cartridge in the H-cube™ hydrogenator at 1 mL/min and full hydrogen. Evaporation gave 2-fluoro-4-methyl-6-aminophenol (250 mg, 1.771 mmol, 76% yield) as a fawn solid.

reactant | 2-fluoro-4-methyl-6-nitrophenol | FC1=C(C(=CC(=C1)C)[N+](=O)[O-])O | C7H6FNO3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-fluoro-4-methyl-6-aminophenol | 1.771 mmol, 250 mg, 76% yield | FC1=C(C(=CC(=C1)C)N)O | C7H8FNO
